US06380218B1
2-(4-Fluoro-phenoxy)-N-[4-(1-hydroxy-1-methyl-ethyl)-cyclohex-1-enylmethyl]-nicotinamide
A solution of 2-(4-Aminomethyl-cyclohex-3-enyl)-propan-2-ol (0.360 grams, 2.127 mmole), 2-diethylaminoethyl chloride hydrochloride (0.530 grams, 2.765 mmole), 2-(4-Fluoro-phenoxy)-nicotinic acid (0.645 grams, 2.765 mmole), 1-hydroxybenzotriazole hydrate (0.374 grams, 2.765 mmole) and triethyl amine (0.430 grams, 4.254 mmole) in methylene chloride (40 ml) was added and stirred over night. The mixture was concentrated and partitioned between ethyl acetate and 1 N HCl. The organic extracts were washed with saturated sodium hydrogencarbonate and brine, dried over MgSO4, filtered and concentrated to give an oil which was purified by chromatography on silica eluting with 50% ethyl acetate/hexane to 100% ethyl acetate to give a yellow oil (0.080 g); M.W. 384.455; MS 385 (M++1).

reactant | 2-(4-Aminomethyl-cyclohex-3-enyl)-propan-2-ol | 2.127 mmole, 0.360 grams | NCC1=CCC(CC1)C(C)(C)O | C10H19NO
reactant | 2-diethylaminoethyl chloride hydrochloride | 2.765 mmole, 0.530 grams | Cl.C(C)N(CCCl)CC
reactant | 2-(4-Fluoro-phenoxy)-nicotinic acid | 2.765 mmole, 0.645 grams | FC1=CC=C(OC2=C(C(=O)O)C=CC=N2)C=C1 | C12H8FNO3
reactant | 1-hydroxybenzotriazole hydrate | 2.765 mmole, 0.374 grams | O.ON1N=NC2=C1C=CC=C2
reactant | triethyl amine | 4.254 mmole, 0.430 grams | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Fluoro-phenoxy)-N-[4-(1-hydroxy-1-methyl-ethyl)-cyclohex-1-enylmethyl]-nicotinamide | 0.080 g | FC1=CC=C(OC2=C(C(=O)NCC3=CCC(CC3)C(C)(C)O)C=CC=N2)C=C1 | C22H25FN2O3
